US06506722B1
A crystalline alkali metal phyllosilicate, as described on page 2, was prepared by dissolving 810 g of anhydrous sodium carbonate in 60 kg of water glass having a percentage composition Na2O/SiO2/H2O=15.3/29.7/55. The solution was spray-dried in a laboratory spray drier (spray tower) from Anhydro to give an amorphous sodium silicate having an active substance content of 82%. 15 kg of the amorphous sodium silicate were heat-treated at 720° C. for 90 min in a muffle furnace (Nabertherm, model W1000/H). This was repeated once more. The cooled silicate powder (about 24 kg) was pulverized with a jaw crusher and a disk mill. 2.55 kg of the silicate powder were mixed with of Arbocell FIC 200 in a tumble mixer. The mixture was compacted in accordance with the general procedures “Roll compaction” at a pressure of 20 kN, and processed in accordance with the general procedure “Production of particle size fractions” to give a particle size fraction of from 500 to 1000 μm.

reactant | sodium carbonate | 810 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water glass | 60 kg | [O-][Si](=O)[O-].[Na+].[Na+]
product | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
